US08017613B2
1-(4-methoxybenzenesulfonyl)piperazine synthesis
A solution of 4-methoxybenzenesulfonyl chloride (6.2 g, 30 mM) in CH2Cl2 (180 ml) is added to a solution of piperazine (12.9 g, 150 mM) in CH2Cl2 (570 ml) and pyridine (2.7 ml). The solution is maintained in agitation at room temperature for 15 h. The solvent is then removed under vacuum. The residue is dissolved in 3N HCl and washed with ethyl ether. The organic phase is removed and the aqueous phase is alkalized and extracted with ethyl acetate. The organic phase is dried over Na2SO4 and the solvent is removed under vacuum. A white solid is obtained (Yield=88%). P.f.: 184.3-185.6° C. FT-IR (KBr): 3082, 3058, 2975, 2944, 2907, 2840, 2810, 1597, 1580, 1495, 1465, 1442, 1413, 1346, 1318, 1298, 1286, 1254, 1179, 1159, 1110, 1095, 1066, 1027, 947, 830, 805, 734, 657, 634 cm−1. 1NMRs (300 MHz CDCl3, δ): 2.48-2.51 (m, 4H, two CH2 piperazine), 2.88-2.94 (m, 5H, two CH2 piperazine and NH), 3.86 (s, 3H, OCH3), 6.95-7.00 (m, 2H, aromatic protons), 7.64-7.68 (m, 2H, aromatic protons). 13C NMRs (75 MHz CDCl3, δ): 46.25, 50.57, 55.85, 77.82, 77.25, 77.67, 79.95, 114.40, 114.58, 127.32, 130.12, 163.27. GC-MS (70 eV) m/z (int. rel.): 258 [(34S)M+, 1], 256 [(32S)M+, 10], 171 (8), 108 (7), 92 (10), 85 (100), 77 (11), 64 (6), 63 (4), 56 (30). Anal. (C11H16N2O3S): Cal.: C, 51.54; H, 6.29; N, 10.93. Found: C, 51.59; H, 6.25; N, 10.96.

reactant | 4-methoxybenzenesulfonyl chloride | 30 mM, 6.2 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | piperazine | 150 mM, 12.9 g | N1CCNCC1 | C4H10N2
reactant | KBr | [K+].[Br-]
solvent | CH2Cl2 | 180 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 570 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2.7 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-methoxybenzenesulfonyl)piperazine | Yield=88% | COC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C11H16N2O3S
